US05128335
The reaction of 1-methyl-4-iodopyrazole (Liljefors, S., and Gronowitz S. Chemica Scripta, 15, 102-9 (1980)) (1.3 g, 6.2 mmol) with 3-bromophenyl boronic acid (1.24 g, 6.2 mmol) using the procedure for the preparation of 3-(3'-bromophenyl)pyridine gave crude 4-(m-bromophenyl)-1-methylpyrazole which was chromatographed on a column of Bakers Silica Gel (60-200 mesh) packed and eluted with CH2Cl2. The less polar fractions contained undesired, incorrectly coupled products while the later more polar fractions contained the desired product (0.82 g, 56% yield).

reactant | 1-methyl-4-iodopyrazole | 6.2 mmol, 1.3 g | CN1N=CC(=C1)I | C4H5IN2
reactant | 3-bromophenyl boronic acid | 6.2 mmol, 1.24 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
reactant | 3-(3'-bromophenyl)pyridine | BrC=1C=C(C=CC1)C=1C=NC=CC1 | C11H8BrN
product | 4-(m-bromophenyl)-1-methylpyrazole | BrC=1C=C(C=CC1)C=1C=NN(C1)C | C10H9BrN2
